US09079835B2
A flame-dried 20 mL vial fitted with a screw-cap septa was charged with Pd(PPh3)2Cl2 (0.06 equiv., 0.12 mmol, 84 mg), Cut (0.12 equiv., 0.24 mmol, 45.6 mg), and 4,5-diiodo-1,2-phenylene bis(trifluoromethanesulfonate) (1 equiv., 2 mmol, 1.25 g). The vessel was evacuated and backfilled with nitrogen (3×), followed by the sequential addition of THF (4 mL), Et3N (3 equiv., 6 mmol, 0.85 mL), and ((pent-4-yn-1-yloxy)methyl)benzene (2.3 equiv., 4.6 mmol, 802 mg) in THF (1 mL). The reaction was stirred for 3 h at rt, filtered through a pad of silica and concentrated in vacuo. Purification by flash chromatography (step gradient from Hex to 10% EtOAc/Hex) afforded 4,5-bis(5-(benzyloxy)pent-1-yn-1-yl)-1,2-phenylene bis(trifluoromethanesulfonate) (1.14 g, 1.59 mmol, 79%). TLC Rf=0.27 (10% EtOAc/Hex); 1HNMR (600 MHz): δ 7.42 (s, 2H), 7.27-7.39 (10H), 4.56 (s, 4H), 3.65 (t, 4H, J=6.0 Hz), 2.62 (t, 4H, J=7.1 Hz), 1.92-1.98 (m, 4H); 13CNMR (150 MHz): δ 138.8, 138.3, 128.4, 128.2, 127.59, 127.56, 126.3, 121.7, 119.6, 117.5, 115.3, 98.1, 77.4, 73.0, 68.5, 28.6, 16.5; FTIR: 2859, 2230, 1489, 1433, 1210, 1178, 1135, 1080, 732 cm−1; HRMS-ESI: calc. for C32H28F6O8S2Na (M+Na)+: 741.1027. found: 741.1039.

reactant | 4,5-diiodo-1,2-phenylene bis(trifluoromethanesulfonate) | 2 mmol, 1.25 g, 1 equiv. | FC(S(=O)(=O)OC1=C(C=C(C(=C1)I)I)OS(=O)(=O)C(F)(F)F)(F)F | C8H2F6I2O6S2
reactant | Et3N | 6 mmol, 0.85 mL, 3 equiv. | CCN(CC)CC | C6H15N
reactant | ((pent-4-yn-1-yloxy)methyl)benzene | 4.6 mmol, 802 mg, 2.3 equiv. | C(CCC#C)OCC1=CC=CC=C1 | C12H14O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.12 mmol, 84 mg, 0.06 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4,5-bis(5-(benzyloxy)pent-1-yn-1-yl)-1,2-phenylene bis(trifluoromethanesulfonate) | 1.59 mmol, 1.14 g, 79% | FC(S(=O)(=O)OC1=C(C=C(C(=C1)C#CCCCOCC1=CC=CC=C1)C#CCCCOCC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)(F)F | C32H28F6O8S2
